US05053408
With stirring under ice cooling, 2.00 g (9.92 mmols) of 5-chloro-2-mercaptobenzothiazole was added gradually to 10 ml of a solution of 0.24 g (10.00 mmols) of sodium hydroxide in dimethylformamide (DMF). The mixture was dropwise added to 20 ml of a solution of 0.62 ml (9.96 mmols) of iodomethane in 20 ml of DMF with stirring under ice cooling and the mixture was stirred for further 30 minutes under ice cooling. The mixture was concentrated under reduced pressure, and to the residue was added an aqueous saturated sodium bicarbonate followed by extraction of the solution with chloroform. The chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol =100/1) to afford 2.10 g (yield: 98%) of 5-chloro-2-methylthiobenzothiazole.

reactant | 5-chloro-2-mercaptobenzothiazole | 9.92 mmols, 2.00 g | ClC=1C=CC2=C(N=C(S2)S)C1 | C7H4ClNS2
reactant | sodium hydroxide | 10.00 mmols, 0.24 g | [OH-].[Na+]
reactant | iodomethane | 9.96 mmols, 0.62 ml | IC | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | 20 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-methylthiobenzothiazole | 2.10 g, yield: 98% | ClC=1C=CC2=C(N=C(S2)SC)C1 | C8H6ClNS2
